US06340678B1
To a solution of 420 mg of tert-butyl (Z)-{4-[({[4,4-difluoro-1-(4-methyl-2-phenylthiazole-5-carbonyl)-2,3,4,5-tetrahydro-1H-1-benzoazepin-5-ylidene]acetyl}amino)methyl]-piperidino}carboxylate in 6 ml of ethyl acetate was added 660 μl of a 4N HCl/ethyl acetate solution, followed by stirring at room temperature for 1.5 days. To the reaction solution was added a saturated aqueous solution of sodium bicarbonate, followed by extracting with ethyl acetate. The organic layer was washed with a saturated aqueous solution of NaCl and dried over anhydrous magnesium sulfate, followed by evaporating the solvent. The residue was purified by silica gel column chromatography (eluting with methanol) and, after making into a hydrochloride using a 4N HCl/ethyl acetate solution, the salt was collected by filtration and washed with ethyl acetate to give 97 mg of (Z)-[4,4-difluoro-1-(4-methyl-2phenyl -thiazole-5-carbonyl)-2,3,4,5-tetrahydro-1H-1-benzoazepin-5-ylidene]-N-[(4-piperidyl)methyl]acetamide dihydrochloride as a colorless powder.

reactant | tert-butyl (Z)-{4-[({[4,4-difluoro-1-(4-methyl-2-phenylthiazole-5-carbonyl)-2,3,4,5-tetrahydro-1H-1-benzoazepin-5-ylidene]acetyl}amino)methyl]-piperidino}carboxylate | 420 mg | FC\1(CCN(C2=C(/C1=C/C(=O)NCC1CCN(CC1)C(=O)OC(C)(C)C)C=CC=C2)C(=O)C2=C(N=C(S2)C2=CC=CC=C2)C)F | C34H38F2N4O4S
reactant | HCl ethyl acetate | 4N | Cl.C(C)(=O)OCC
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 6 ml | C(C)(=O)OCC | C4H8O2
product | (Z)-[4,4-difluoro-1-(4-methyl-2phenyl -thiazole-5-carbonyl)-2,3,4,5-tetrahydro-1H-1-benzoazepin-5-ylidene]-N-[(4-piperidyl)methyl]acetamide dihydrochloride | 97 mg | Cl.Cl.FC\1(CCN(C2=C(/C1=C/C(=O)NCC1CCNCC1)C=CC=C2)C(=O)C2=C(N=C(S2)C2=CC=CC=C2)C)F | InChI=1S/C29H30F2N4O2S.2ClH/c1-19-26(38-27(34-19)21-7-3-2-4-8-21)28(37)35-16-13-29(30,31)23(22-9-5-6-10-24(22)35)17-25(36)33-18-20-11-14-32-15-12-20;;/h2-10,17,20,32H,11-16,18H2,1H3,(H,33,36);2*1H/b23-17-;;
